US07405300B2
2-chloro-1-(4-methyl-3-nitrophenyl)-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 to afford 1-(4-methyl-3-nitrophenyl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde (68% yield). ESI/MS 365 (M+H); RT=2.65 min; NMR (CDCl3) 10.35 (1H, s); 8.31 (1H, d, J=9 Hz); 8.11 (1H, s); 7.61 (2H); 7.31 (2H); 7.01 (1H, d, J=9 Hz); 3.31 (4H, m); 2.88 (4H, m); 2.74 (3H, s).

reactant | 2-chloro-1-(4-methyl-3-nitrophenyl)-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C16H11ClN2O3
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-(4-methyl-3-nitrophenyl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde | 68% yield | CC1=C(C=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1)[N+](=O)[O-] | C20H20N4O3
